US04133885
To a suspension of 2-acetamido-5-methyl-7-chloro-1,8-naphthyridine (23.5 g., 0.10 mole) in 250 ml. of methanol is added sodium methoxide (16.2 g., 0.30 mole). The resulting solution is stirred at reflux under nitrogen atmosphere for 18 hours. The methanol is removed in vacuo and the residue is taken up in chloroform (250 ml.) and water (100 ml.). The chloroform layer is separated, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue is recrystallized from ethanol to yield 2-amino-5-methyl-7-methoxy-1,8-naphthyridine melting at 233°-236° C.

reactant | 2-acetamido-5-methyl-7-chloro-1,8-naphthyridine | 0.10 mole, 23.5 g | C(C)(=O)NC1=NC2=NC(=CC(=C2C=C1)C)Cl | C11H10ClN3O
reactant | sodium methoxide | 0.30 mole, 16.2 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-amino-5-methyl-7-methoxy-1,8-naphthyridine | NC1=NC2=NC(=CC(=C2C=C1)C)OC | C10H11N3O
